US07253286B2
1-[4-(6-Amino-7-methoxyquinolin-4-yloxy)-2-fluorophenyl]-3-(thiazol-2-yl)urea
After adding {4-[3-fluoro-4-(3-(thiazol-2-yl)ureido)phenoxy]-7-methoxyquinolin-6-yl}carbamic acid benzyl ester (100 mg) to a mixture of trifluoroacetic acid (3 ml) and thioanisole (0.1 ml), the mixture was heated and stirred at 60° C. for 2 hours. The solvent was distilled off and the residue was subjected to NH silica gel column chromatography for elution with a solvent (ethyl acetate:methanol=10:1) to obtain the title compound (23 mg) as a solid.

reactant | {4-[3-fluoro-4-(3-(thiazol-2-yl)ureido)phenoxy]-7-methoxyquinolin-6-yl}carbamic acid benzyl ester | 100 mg | C(C1=CC=CC=C1)OC(NC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC=1SC=CN1)F)=O | C28H22FN5O5S
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | thioanisole | 0.1 ml | C1(=CC=CC=C1)SC | C7H8S
product | 1-[4-(6-Amino-7-methoxyquinolin-4-yloxy)-2-fluorophenyl]-3-(thiazol-2-yl)urea | 23 mg | NC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC=1SC=CN1)F | C20H16FN5O3S
